US05101411
p-Nitrobenzaldehyde is reacted with acetophenone and sodium hydroxide in ethanol to produce 3-(p-nitrophenyl)-3-hydroxy-1-phenyl propanone. The resulting compound is reacted with KHSO4 to obtain p-nitrochalcone. p-Nitrochalcone is hydrogenated in the presence of platinum catalyst to produce 3-(p-aminophenyl)-1-phenyl propanone. The resulting compound is reacted with potassium hydroxide and hydrazine in triethylene glycol to produce p-aminodiophenylpropane. p-Aminodiphenylpropane is reacted with fuming nitric acid and acetic acid anhydride to obtain 1-(p-aminophenyl)-3-p-nitrophenyl)-propane.

reactant | p-Nitrobenzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3-(p-nitrophenyl)-3-hydroxy-1-phenyl propanone | [N+](=O)([O-])C1=CC=C(C=C1)C(C(CC1=CC=CC=C1)=O)O | C15H13NO4
